US06632824B2
8-{2-[3-(2-Naphthyl)-8-azabicyclo[3.2.1]oct-8-yl]ethoxy}quinoline
The title compound is prepared according to Example 8, Step 5, except 8-hydroxyquinoline is used in place 6-methoxyquinolin-8-ol. The corresponding oxalate salt is prepared by treating the title compound with 1 equiv. oxalic acid in DMF to precipitate a white solid. Yield: 51%; mp: 110-113° C.; MS (ES) m/z: 409 (MH)+.

reactant | 8-hydroxyquinoline | OC=1C=CC=C2C=CC=NC12 | C9H7NO
reactant | 6-methoxyquinolin-8-ol | COC=1C=C2C=CC=NC2=C(C1)O | C10H9NO2
reactant | oxalic acid | 1 equiv. | C(C(=O)O)(=O)O | C2H2O4
solvent | DMF | CN(C)C=O | C3H7NO
product | 8-{2-[3-(2-Naphthyl)-8-azabicyclo[3.2.1]oct-8-yl]ethoxy}quinoline | C1=C(C=CC2=CC=CC=C12)C1CC2CCC(C1)N2CCOC=2C=CC=C1C=CC=NC21 | C28H28N2O
